US03997603
N-Acetyl-4-cyano-2,5-diisopropylbenzenesulfonamide
A mechanically stirred mixture of 8 parts of 4-cyano-2,5-diisopropylbenzenesulfonamide and 50 parts of acetic anhydride was heated near reflux for 6 hours. The reaction was concentrated in vacuo to give a solid which was recrystallized from ethanol-water, and then exhibited a m.p. of 170°-173°.

reactant | 4-cyano-2,5-diisopropylbenzenesulfonamide | C(#N)C1=CC(=C(C=C1C(C)C)S(=O)(=O)N)C(C)C | C13H18N2O2S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-Acetyl-4-cyano-2,5-diisopropylbenzenesulfonamide | C(C)(=O)NS(=O)(=O)C1=C(C=C(C(=C1)C(C)C)C#N)C(C)C | C15H20N2O3S
